US08034812B2
In the same manner as in Reference Example 23 and using 3-amino-4-chlorophenol (920 mg, 6.4 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (1170 mg, 7.4 mmol) and N,N-dimethylacetamide (13 mL) as starting materials, N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1190 mg, 4.5 mmol) was obtained. Using lithium aluminum hydride (1060 mg, 22 mmol), N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1190 mg, 4.5 mmol) and tetrahydrofuran (40 mL) as starting materials, the title compound (810 mg, 72%) was obtained as a brown solid.

reactant | 3-amino-4-chlorophenol | 6.4 mmol, 920 mg | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonylchloride | 7.4 mmol, 1170 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | N,N-dimethylacetamide | 13 mL | CN(C(C)=O)C | C4H9NO
product | N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.5 mmol, 1190 mg | ClC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NN1C)C | C12H12ClN3O2
